US07501439B2
Purification of Isofagomine Free Base
TLC was performed on the different fractions (silica gel, isopropanol:water:NH4OH (7:2:1) and detection was via imino sugar and ninhydrin spray. Fractions testing positive with the imino-sugar sprays were analyzed to determine purity, then combined and lyophilized for 72 hours.

reactant | isopropanol water NH4OH | C(C)(C)O.O.[NH4+].[OH-]
reactant | ninhydrin spray | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
product | Isofagomine | C1[C@@H]([C@H]([C@@H](CN1)O)O)CO | C6H13NO3
